US09353082B2
a) N-(1-cyanopiperidin-4-yl)-4-(4-methoxyphenyl)-N-methyl-1H-imidazole-1-carboxamide
To a solution of 4-(4-methoxyphenyl)-N-methyl-N-(piperidin-4-yl)-1H-imidazole-1-carboxamide hydrochloride (287 mg, 0.818 mmol) in DMF (5 mL) was added potassium tert-butoxide (184 mg, 1.636 mmol) and the mixture was allowed to stir at room temperature for 30 minutes, whereupon it was cooled in an ice/water bath and cyanogen bromide (0.818 mL, 2.454 mmol, 3 N dichloromethane solution) was added dropwise over 10-15 minutes. The reaction mixture was allowed to slowly warm up to room temperature over 1 h, and was then partitioned between water and dichloromethane/isopropanol (7:3). The layers were separated and the organic phase was further washed with water and brine, then dried (Na2SO4), filtered and the solvent was removed under reduced pressure. The residue was dissolved in the minimum volume of chloroform and insoluble material was removed by filtration. The filtrate was concentrated to give an off-white solid, (345 mg, 67%).

reactant | 4-(4-methoxyphenyl)-N-methyl-N-(piperidin-4-yl)-1H-imidazole-1-carboxamide hydrochloride | 0.818 mmol, 287 mg | Cl.COC1=CC=C(C=C1)C=1N=CN(C1)C(=O)N(C1CCNCC1)C
reactant | potassium tert-butoxide | 1.636 mmol, 184 mg | CC(C)([O-])C.[K+]
reactant | cyanogen bromide | 2.454 mmol, 3 N, 0.818 mL | N#CBr | CBrN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(1-cyanopiperidin-4-yl)-4-(4-methoxyphenyl)-N-methyl-1H-imidazole-1-carboxamide | C(#N)N1CCC(CC1)N(C(=O)N1C=NC(=C1)C1=CC=C(C=C1)OC)C | C18H21N5O2
